US04743601
N-(2-hydroxyethyl)-4-quinolinamine
A slurry of 0.86 g of palladium on carbon in isopropanol was pipetted into a Parr shaker and to this was added a solution of 10 of 7-chloro-N-(2-hydroxyethyl)-4-quinolinamine and 6.1 g of sodium acetate in 260 ml of methanol and 7 ml of acetic acid. The mixture was hydrogenated at 51 psi (pounds per square inch) until no further reaction was observed. Upon filtration through celite and evaporation of solvents an oil resulted which was dissolved in water and basified with sodium hydroxide. A solid resulted which was recrystallized from isopropanol to give 8.5 g of purifed compound with a melting point of 152°-154° C.

reactant | 7-chloro-N-(2-hydroxyethyl)-4-quinolinamine | ClC1=CC=C2C(=CC=NC2=C1)NCCO | C11H11ClN2O
reactant | sodium acetate | 6.1 g | C(C)(=O)[O-].[Na+]
catalyst | palladium on carbon | 0.86 g | [Pd] | Pd
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | methanol | 260 ml | CO | CH4O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | N-(2-hydroxyethyl)-4-quinolinamine | 8.5 g | OCCNC1=CC=NC2=CC=CC=C12 | C11H12N2O
